US04835175
A solution of 7-benzyloxyindole-2-carboxylic acid ethyl ester in 600 ml of tetrahydrofuran and 200 ml of methanol is combined with 500 ml of 2N sodium hydroxide solution and stirred for 3 hours at room temperature. The reaction mixture is then acidified under ice cooling with 10% hydrochloric acid and extracted twice with ethyl acetate. The combined organic phases are dried, treated with active carbon, and concentrated. The residue is recrystallized from toluene, thus producing 35 g of 7-benzyloxyindole-2-carboxylic acid, mp 166°-168° C.

reactant | 7-benzyloxyindole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=C(C=CC=C2C1)OCC1=CC=CC=C1 | C18H17NO3
reactant | sodium hydroxide | 2N, 500 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | methanol | 200 ml | CO | CH4O
product | 7-benzyloxyindole-2-carboxylic acid | 35 g | C(C1=CC=CC=C1)OC=1C=CC=C2C=C(NC12)C(=O)O | C16H13NO3
